US08580146B2
3-(4-Propylphenyl)propanol (s3) (11.0 g) and triphenylphosphine (24.3 g) were dissolved in methylene chloride (200 ml). Carbon tetrabromide (24.5 g) in methylene chloride (100 ml) solution was slowly added dropwise to the solution, and the mixture was stirred at room temperature for another 3 hours. The reaction mixture was treated with a saturated aqueous solution of sodium hydrogencarbonate, and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed successively with water and brine, and dried over anhydrous magnesium sulfate. The solution was concentrated under reduced pressure to leave a residue, pale yellow solids. The residue was purified by column chromatography with heptane as an eluent and silica gel as a stationary phase powder to give 3-(4-propylphenyl)bromopropane (s4) (14.5 g). The yield based on the compound (s3) was 97.4%.

reactant | 3-(4-Propylphenyl)propanol | 11.0 g | C(CC)C1=CC=C(C=C1)CCCO | C12H18O
reactant | triphenylphosphine | 24.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Carbon tetrabromide | 24.5 g | C(Br)(Br)(Br)Br | CBr4
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-propylphenyl)bromopropane | 14.5 g | C(CC)C1=CC=C(C=C1)CCCBr | C12H17Br
